US06716856B1
Preparation of 1-Aminocarbonyl-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole.
A solution of trichloromethyl chloroformate (0.37 ml, 3.03 mmol) in 3 ml of dichloromethane was added dropwise to a solution of 3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indazole (0.4 g, 2.25 mmol), prepared as described in example 15, and triethylamine (0.42 ml, 3.03 mmol) maintained under magnetic stirring and inert atmosphere at about −15° C. The reaction mixture was allowed to warm to room temperature and stirring was continued for about 3.5 hours. A solution of 32% amonium hydroxide (10 ml) was then added while cooling at −15° C. The mixture was kept at room temperature for about 12 hours and the two layers were separated; dichloromethane was washed with water and brine, dried over sodium sulfate and evaporated. The residue was chromatographed on silica gel (cyclohexane:ethyl acetate=20:30), to yield the title compound as a colourless solid (0.170 g, 36%): m.p. 173-175° C.

reactant | trichloromethyl chloroformate | 3.03 mmol, 0.37 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indazole | 2.25 mmol, 0.4 g | CC1=NNC=2CC(CC(C12)=O)(C)C | C10H14N2O
reactant | triethylamine | 3.03 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | amonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-Aminocarbonyl-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.170 g, 36% | NC(=O)N1N=C(C=2C(CC(CC12)(C)C)=O)C | C11H15N3O2
